US08629160B2
(R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (C19) (90 mg, 0.23 mmol) was dissolved in EtOAc (3 ml), and 2-bromo-1-(thiophen-2-yl)ethanone (51.7 mg, 0.25 mmol) was added. The reaction mixture was stirred at room temperature overnight. The crude was purified by flash chromatography (DCM/MeOH=9/1) to obtain (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide (50 mg, 36.5% yield).

reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.23 mmol, 90 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
reactant | 2-bromo-1-(thiophen-2-yl)ethanone | 0.25 mmol, 51.7 mg | BrCC(=O)C=1SC=CC1 | C6H5BrOS
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 50 mg, 36.5% yield | [Br-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C=3SC=CC3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C29H29N2O3S2.BrH/c32-24(27-11-6-16-35-27)17-31-14-12-20(13-15-31)25(18-31)34-29(33)28(30-21-7-2-1-3-8-21)23-19-36-26-10-5-4-9-22(23)26;/h1-11,16,19-20,25,28,30H,12-15,17-18H2;1H/q+1;/p-1/t20?,25-,28?,31?;/m0./s1
